US05552551
3-Hydroxy-3-thienylchromone
A solution of 3 g (22.2 mmol) of 2-hydroxyacetophenone, 2.5 g (22.2 mmol) of thiophene 3-carboxaldehyde and 3 g NaOH (in 15 ml of water) in 50 ml of ethanol was stirred for 12 hours before the solution was poured into 300 ml of water. The resulting mixture was neutralized with dilute HCl to yield a chalcone. The yellow precipitate obtained was filtered and dried. The product was purified by recrystallized from methylene chloride. Further oxidation of above chalcone was carried out with excess of H2O2 (30%) in ethanol under basic conditions for 12 hours. The resulting solution was poured into 300 ml water and acidified with dilute HCl. Yellow precipitate obtained was filtered and dried. Product was recrystallized from THF/hexane mixture. Yield: 36%. Quantum Yield: (1.8 relative to 3HF in methyl cyclohexane), Extinction coefficient: εmax (M-1 cm-1)=2000. λmax (abs)=343 nm and λmax (em)=526 nm. MP=195°-196° C.

reactant | 2-hydroxyacetophenone | 22.2 mmol, 3 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | thiophene 3-carboxaldehyde | 22.2 mmol, 2.5 g | S1C=C(C=C1)C=O | C5H4OS
reactant | NaOH | 15 ml, 3 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 3-Hydroxy-3-thienylchromone | Yield: 36% | OC1(CSC=C1)C=1OC2=CC=CC=C2C(C1)=O | C13H10O3S
